US08440682B2
To a mixture of N-benzyl-3-hydroxypyrrolidine (0.50 g, 2.84 mmol) in dichloromethane (5 mL) and pyridine (0.46 mL, 5.68 mmol) is added benzoyl chloride (0.4 mL, 3.41 mmol) at 0° C., and the mixture is stirred for 1 hour while warming to room temperature. After addition of saturated aqueous NaHCO3, the mixture is extracted with EtOAc. The combined organic layer is dried over MgSO4, filtered, and concentrated. The resulting N-benzyl-3-benzoyloxypyrrolidine is used for next step without further purification. To a crude mixture of N-benzyl-3-benzoyloxypyrrolidine (114 mg, 0.41 mmol) in dichloromethane (1 mL) is added α-chloroethyl chloroformate (57 μL, 0.49 mmol) at 0° C., and the mixture is stirred for 1 hour while warming to room temperature. After removing dichloromethane, resulting mixture is diluted with MeOH. The reaction mixture is heated to 80° C. for 0.5 hour. After cooling to room temperature, solvent is evaporated under reduced pressure to obtain (S)-(−)-3-benzoyloxypyrrolidine which is used for next reaction without further purification.

reactant | N-benzyl-3-hydroxypyrrolidine | 2.84 mmol, 0.50 g | C(C1=CC=CC=C1)N1CC(CC1)O | C11H15NO
reactant | pyridine | 5.68 mmol, 0.46 mL | N1=CC=CC=C1 | C5H5N
reactant | benzoyl chloride | 3.41 mmol, 0.4 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | N-benzyl-3-benzoyloxypyrrolidine | 0.41 mmol, 114 mg | C(C1=CC=CC=C1)N1CC(CC1)OC(C1=CC=CC=C1)=O | C18H19NO2
reactant | α-chloroethyl chloroformate | 0.49 mmol, 57 μL | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | MeOH | CO | CH4O
product | (S)-(−)-3-benzoyloxypyrrolidine | C(C1=CC=CC=C1)(=O)O[C@@H]1CNCC1 | C11H13NO2
